US07700782B2
iii) Benzyl {2-[acryloyl(cycloheptyl)amino]-1-methylethyl}[2-(4-hydroxy-2-oxo-2,3-dihydro-1,3-benzothiazol-7-yl)ethyl]carbamate
To a solution of Benzyl [2-(cycloheptylamino)-1-methylethyl][2-(4-hydroxy-2-oxo-2,3-dihydro-1,3-benzothiazol-7-yl)ethyl]carbamate (0.46 g) in CH2Cl2 (10 mL) was added triethylamine (0.773 mL) and trimethylsilyl chloride (0.586 mL) and the mixture was stirred for 1 h at room temperature. The reaction mixture was cooled in ice and acryloyl chloride (0.0976 mL) was added. The mixture was allowed to warm slowly to RT, diluted with CH2Cl2 and washed with 2M HCl and brine. Drying and evaporation afforded an orange foam (470 mg), which was used directly in the next step.

reactant | Benzyl [2-(cycloheptylamino)-1-methylethyl][2-(4-hydroxy-2-oxo-2,3-dihydro-1,3-benzothiazol-7-yl)ethyl]carbamate | 0.46 g | C1(CCCCCC1)NCC(C)N(C(OCC1=CC=CC=C1)=O)CCC1=CC=C(C=2NC(SC21)=O)O | C27H35N3O4S
reactant | triethylamine | 0.773 mL | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 0.586 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | acryloyl chloride | 0.0976 mL | C(C=C)(=O)Cl | C3H3ClO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Benzyl {2-[acryloyl(cycloheptyl)amino]-1-methylethyl}[2-(4-hydroxy-2-oxo-2,3-dihydro-1,3-benzothiazol-7-yl)ethyl]carbamate | 470 mg | C(C=C)(=O)N(CC(C)N(C(OCC1=CC=CC=C1)=O)CCC1=CC=C(C=2NC(SC21)=O)O)C2CCCCCC2 | C30H37N3O5S
